US05578627
To a suspension of 0.43 g of 60% (w/w) sodium hydride in 15 ml of tetrahydrofuran is added a solution of 0.80 g of 2-amino-2-methyl-1-propanol in 20 ml of tetrahydrofuran at 20°-25° C., and they are refluxed for two hours. To the reaction mixture is added a solution of 2.36 g of 3,5-dichloro-1,2-benzoisoxazole in 20 ml of tetrahydrofuran under reflux, and they are refluxed for a further one hour. After cooling, the solvent is removed by distillation under reduced pressure, and ethyl acetate and water are added to the residue obtained, and after shaking, the organic layer is separated. The separated organic layer is washed with a saturated saline solution, dried over anhydrous magnesium sulfate and then purified by a column chromatography [eluant:chloroform:methanol=20:1], to obtain 1.59 g of oily 3-(2-amino-2-methylpropoxy)-5-chloro-1,2-benzoisoxazole.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-amino-2-methyl-1-propanol | 0.80 g | NC(CO)(C)C | C4H11NO
reactant | 3,5-dichloro-1,2-benzoisoxazole | 2.36 g | ClC1=NOC2=C1C=C(C=C2)Cl | C7H3Cl2NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(2-amino-2-methylpropoxy)-5-chloro-1,2-benzoisoxazole | 1.59 g | NC(COC1=NOC2=C1C=C(C=C2)Cl)(C)C | C11H13ClN2O2
